US06130234
A suspension of NaHCO3 (4 g) and 4-[(4-chlorophenyl)methyl]piperidine (18 mmol) in dimethylformamide (DMF) (25 mL) is stirred under a N2 atm at 0° C., and treated dropwise with 3-butynyltosylate (20 mmol) as a solution in DMF (50 mL). The reaction mixture is heated at 80° C. and stirred an additional 18 hours. After cooling the reaction mixture is stirred vigorously with the addition of water (200 mL), and then extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and evaporated. The residue is purified by silica gel column chromatography (100:1 CH2Cl2 :MeOH) to give 1-(3-butynyl)-4-(4-chlorophenyl)piperidine.

reactant | NaHCO3 | 4 g | C(=O)(O)[O-].[Na+]
reactant | 4-[(4-chlorophenyl)methyl]piperidine | 18 mmol | ClC1=CC=C(C=C1)CC1CCNCC1 | C12H16ClN
reactant | 3-butynyltosylate | 20 mmol | C(#CCC)C=1C=C(S(=O)(=O)[O-])C=CC1C
reactant | water | 200 mL | O | H2O
reactant | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
reactant | DMF | 50 mL | CN(C=O)C | C3H7NO
product | 1-(3-butynyl)-4-(4-chlorophenyl)piperidine | C(CC#C)N1CCC(CC1)C1=CC=C(C=C1)Cl | C15H18ClN
